US07173038B1
Sodium hydride (60%, 612 mg, 15.3 mmol) was added to a solution of 4-bromo-2,6-difluoroaniline (2.77 g, 6.65 mmol) in DMF (80 ml). After stirring for 30 minutes at ambient temperature, 7-benzyloxy-4-chloro-6-methoxyquinazoline (2 g, 6.65 mmol), (prepared, for example, as described in WO 97/22596, Example 1, but the free base was generated prior to use), was added and stirring was maintained for 4 hours. The mixture was partitioned between ethyl acetate and water (200 ml). The organic layer was separated, washed with water, brine, dried (MgSO4) and the volatiles were removed by evaporation. The residue was triturated with isopropanol, collected by filtration, washed with ether and dried under vacuum to give 7-benzyloxy-4-(4-bromo-2,6-difluoroanilino)-6-methoxyquinazoline (1.95 g, 62%).

reactant | Sodium hydride | 15.3 mmol, 612 mg | [H-].[Na+]
reactant | 4-bromo-2,6-difluoroaniline | 6.65 mmol, 2.77 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 7-benzyloxy-4-chloro-6-methoxyquinazoline | 6.65 mmol, 2 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 7-benzyloxy-4-(4-bromo-2,6-difluoroanilino)-6-methoxyquinazoline | 1.95 g, 62% | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1F)Br)F)OC | C22H16BrF2N3O2
